US08232409B2
B. 3-Cyano-5-nitro-2′-trifluoromethyl-biphenyl-4-ylamine
The title compound was prepared by an adaptation of the method described by Youngblood, W. J. (J. Org. Chem. 2006, 71, 3345-3356). 3-Iodo-5-nitro-2′-trifluoromethyl-biphenyl-4-ylamine (230 mg, 0.564 mmol, as prepared in the previous step) and Cu(I)CN (1.5 eq., 7.57 mg, 0.845 mmol) were placed in an 8 mL vial equipped with a magnetic stir bar. Dry DMA (2.5 mL) was added via syringe, and the vial was tightly capped and placed in a heating block. The reaction was stirred at 140° C. for 14 h, cooled to RT, and poured into water. The precipitate was isolated by filtration and washed with water (10 mL). The precipitate was dissolved in EtOAc (25 mL), dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure. The crude product was purified by preparative TLC on a 2000 μm SiO2 plate developed with EtOAc/hexanes, 1:9 v/v, yielding 86 mg (50%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 8.37 (d, J=1.8 Hz, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.71 (d, J=1.5 Hz, 1H), 7.62 (t, J=7.3 Hz, 1H), 7.55 (t, J=7.7 Hz, 1H), 7.31 (d, J=7.6 Hz, 1H), 6.84 (br. s., 2H).

reactant | 3-Iodo-5-nitro-2′-trifluoromethyl-biphenyl-4-ylamine | IC=1C=C(C=C(C1N)[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F | C13H8F3IN2O2
reactant | DMA | 2.5 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 3-Cyano-5-nitro-2′-trifluoromethyl-biphenyl-4-ylamine | 86 mg, 50% | C(#N)C=1C=C(C=C(C1N)[N+](=O)[O-])C1=C(C=CC=C1)C(F)(F)F | C14H8F3N3O2
